* SPICE model for DAC8408 by Uday Godbole 23 Jan 07
* This is one-fourth of the package. 
* Power supplies, digital interface etc not modelled.
.PARAM _R = 10k ; nominal DAC ladder resistance. SPEC sheet has range 6k..14k
.PARAM _2R = 20k
* PinOuts:
* 301 = VREF
* 302 = RFB
* 303 = IOUT1
* 304 = IOUT2
.SUBCKT DAC8408	301 302 303 304
* convert value to 8 bits (Danke schön, Helmut Sennewald)
B0 100 0 V = IF (({DAC} - 2*int({DAC}/2)) >= 1, 3 , 0)
B1 101 0 V = IF (({DAC} - 4*int({DAC}/4)) >= 2, 3 , 0)
B2 102 0 V = IF (({DAC} - 8*int({DAC}/8)) >= 4, 3 , 0)
B3 103 0 V = IF (({DAC} - 16*int({DAC}/16)) >= 8, 3 , 0)
B4 104 0 V = IF (({DAC} - 32*int({DAC}/32)) >= 16, 3 , 0)
B5 105 0 V = IF (({DAC} - 64*int({DAC}/64)) >= 32, 3 , 0)
B6 106 0 V = IF (({DAC} - 128*int({DAC}/128)) >= 64, 3 , 0)
B7 107 0 V = IF ({DAC} > 127, 3 , 0)

*complements of above
B10 110 0 V = IF( (V(100,0) < 1), 3, 0)
B11 111 0 V = IF( (V(101,0) < 1), 3, 0)
B12 112 0 V = IF( (V(102,0) < 1), 3, 0)
B13 113 0 V = IF( (V(103,0) < 1), 3, 0)
B14 114 0 V = IF( (V(104,0) < 1), 3, 0)
B15 115 0 V = IF( (V(105,0) < 1), 3, 0)
B16 116 0 V = IF( (V(106,0) < 1), 3, 0)
B17 117 0 V = IF( (V(107,0) < 1), 3, 0)

* ladder resistors
R00	n0 n10 {_2R}
R01	n10 n11 {_R}
R10	n1 n11 {_2R}
R11	n11 n12 {_R}
R20	n2 n12 {_2R}
R21	n12 n13 {_R}
R30	n3 n13 {_2R}
R31	n13 n14 {_R}
R40	n4 n14 {_2R}
R41	n14 n15 {_R}
R50	n5 n15 {_2R}
R51	n15 n16 {_R}
R60	n6 n16 {_2R}
R61	n16 301 {_R}
R70	n7 301 {_2R}

R8	n10 304 {_2R}
R9	303 302 {_R}

* Equiv caps approximation
C1	303 0 40p
C2	304 0 40p

*switches
S7a	n7 303 107 0 Swm7
S6a	n6 303 106 0 Swm6
S5a	n5 303 105 0 Swm5
S4a	n4 303 104 0 Swm4
S3a	n3 303 103 0 Swm3
S2a	n2 303 102 0 Swm2
S1a	n1 303 101 0 Swm1
S0a	n0 303 100 0 Swm0

S7b	n7 304 117 0 Swm7
S6b	n6 304 116 0 Swm6
S5b	n5 304 115 0 Swm5
S4b	n4 304 114 0 Swm4
S3b	n3 304 113 0 Swm3
S2b	n2 304 112 0 Swm2
S1b	n1 304 111 0 Swm1
S0b	n0 304 110 0 Swm0

.MODEL Swm7 VSWITCH (RON=20 ROFF=1E12 VON=2.0 VOFF=1.4)
.MODEL Swm6 VSWITCH (RON=40 ROFF=1E12 VON=2.0 VOFF=1.4)
.MODEL Swm5 VSWITCH (RON=80 ROFF=1E12 VON=2.0 VOFF=1.4)
.MODEL Swm4 VSWITCH (RON=160 ROFF=1E12 VON=2.0 VOFF=1.4)
.MODEL Swm3 VSWITCH (RON=320 ROFF=1E12 VON=2.0 VOFF=1.4)
.MODEL Swm2 VSWITCH (RON=640 ROFF=1E12 VON=2.0 VOFF=1.4)
.MODEL Swm1 VSWITCH (RON=1280 ROFF=1E12 VON=2.0 VOFF=1.4)
.MODEL Swm0 VSWITCH (RON=2560 ROFF=1E12 VON=2.0 VOFF=1.4)
.ENDS DAC8408

