*Vk is Breakover Voltage
*Rs is series Resistance
*Both must be defined

.subckt DIAC T1 T2
Q1 N002 N001 T2 0 PN
Q2 N001 N002 N005 0 NP
R1 N002 N004 {20K*(VK-1)}
R2 N004 T2 9.5K
R3 N002 N005 9.5K
Q3 N004 N003 N005 0 PN
Q4 N003 N004 T2 0 NP
R4 T1 N005 {RS}
.model PN NPN Cjc=10p Cje=10p
.model NP PNP Cjc=10p Cje=10p
.ends DIAC
